US07935815B2
Synthesis of (+) and (−)-2-{(E)-2-[5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine
Triethylsilane (40.9 μL) and a 1,1′-bis(diphenylphosphino)ferrocene palladium (II) dichloride-dichloromethane complex (4.37 mg) were added to a solution of 3-(4-methyl-1H-imidazol-1-yl)-6-{(E)-2-[8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-yl]vinyl}pyridin-2-yl trifluoromethanesulfonate (64 mg) in DMF (2 mL). The reaction solution was stirred at 70° C. for five hours. The reaction solution was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=4:1→ethyl acetate) to obtain a racemate of the title compound (25 mg). The resulting racemate (25 mg) was separated by CHIRALPAK™ IB manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm, mobile phase: ethanol, flow rate: 11 mL/min) to obtain the title optically active compound with a retention time of 21 minutes and positive optical rotation (10 mg) and the title optically active compound with a retention time of 30 minutes and negative optical rotation (10 mg).

reactant | Triethylsilane | 40.9 μL | C(C)[SiH](CC)CC | C6H16Si
reactant | 3-(4-methyl-1H-imidazol-1-yl)-6-{(E)-2-[8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-yl]vinyl}pyridin-2-yl trifluoromethanesulfonate | 64 mg | FC(S(=O)(=O)OC1=NC(=CC=C1N1C=NC(=C1)C)\C=C\C1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)(F)F | C25H20F6N6O3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (−)-2-{(E)-2-[5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine | 25 mg | CC=1N=CN(C1)C=1C=CC(=NC1)/C=C/C1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1 | C24H21F3N6
